US09388199B2
A. (1R,3S,5R)-2-Azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester 2-tert-butyl ester
To a solution of (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester (1.5 g, 3.6 mmol) and Cs2CO3 (2.26 g, 6.9 mmol) in DMF (20 mL), allyl bromide (0.6 mL, 3.9 mmol) was added under nitrogen atmosphere. The reaction mixture was stirred for 40 h at RT. DMF was evaporated. The residue was dissolved in EtOAc and washed with aq. HCl 1 N, dried over Na2SO4, filtered and concentrated. The crude residue was purified by flash column chromatography on silica gel (c-hexane to c-hexane/EtOAc 4:6) to give the title compound. MS (LCMS): 167.9 [MH-Boc]+, 290.0 [M+Na]+.

reactant | (1R,3S,5R)-2-azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 2-tert-butyl ester | 3.6 mmol, 1.5 g | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)O | C11H17NO4
reactant | Cs2CO3 | 6.9 mmol, 2.26 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | allyl bromide | 3.9 mmol, 0.6 mL | C(C=C)Br | C3H5Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (1R,3S,5R)-2-Azabicyclo[3.1.0]hexane-2,3-dicarboxylic acid 3-allyl ester 2-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2C[C@@H]2C[C@H]1C(=O)OCC=C | C14H21NO4
